US09353081B2
[C] 6-Bromo-8-fluoro-3,4-dihydro-1H-quinolin-2-one
NBS (0.62 g, 3.5 mmol) dissolved in DMF (5 mL) was added to a solution of 8-fluoro-3,4-dihydro-1H-quinolin-2-one (0.52 g, 3.2 mmol) in DMF (5 mL) dropwise at 0° C. The resulting reaction mixture was stirred at room temperature for 12 hr before it was treated with water. The precipitated solid was collected through filtration, washed with ether, and dried over vacuum to afford title compound (0.65 g, 85% yield) as a white solid. MS: 244.1 (M+H)+.

reactant | NBS | 3.5 mmol, 0.62 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 8-fluoro-3,4-dihydro-1H-quinolin-2-one | 3.2 mmol, 0.52 g | FC=1C=CC=C2CCC(NC12)=O | C9H8FNO
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 6-Bromo-8-fluoro-3,4-dihydro-1H-quinolin-2-one | 0.65 g, 85% yield | BrC=1C=C2CCC(NC2=C(C1)F)=O | C9H7BrFNO
